US08937073B2
5d) (S)-3-[(5-tert-butoxycarbonylamino-pyridin-3-carbonyl)-amino]-tetrahydrofuran-3-carboxylic acid
A solution of n-butyl(S)-3-[(5-tert-butoxycarbonylamino-pyridin-3-carbonyl)-amino]-tetra-hydrofuran-3-carboxylate (29.7 mmol) in 150 mL methanol was combined with 60 mL of 1N sodium hydroxide solution and stirred for three hours at ambient temperature. Then the methanol was distilled off, the solution was then washed with 50 mL tert-butylmethylether and then adjusted to pH 3 with 4N hydrochloric acid. The product that then precipitated was filtered off and further reacted without purification.

reactant | n-butyl(S)-3-[(5-tert-butoxycarbonylamino-pyridin-3-carbonyl)-amino]-tetra-hydrofuran-3-carboxylate | 29.7 mmol | C(C)(C)(C)OC(=O)NC=1C=C(C=NC1)C(=O)N[C@@]1(COCC1)C(=O)OCCCC | C20H29N3O6
reactant | sodium hydroxide | 1N, 60 mL | [OH-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
product | (S)-3-[(5-tert-butoxycarbonylamino-pyridin-3-carbonyl)-amino]-tetrahydrofuran-3-carboxylic acid | C(C)(C)(C)OC(=O)NC=1C=C(C=NC1)C(=O)N[C@@]1(COCC1)C(=O)O | C16H21N3O6
